US07713994B2
(4Z)-4-({[6-(4-Ethylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-(3-furyl)isoquinoline-1,3(2H,4H)-dione
(4Z)-4-({[6-(4-Ethylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione (50.3 mg, 0.1 mmol) is mixed with 3-furanboronic acid (22 mg, 0.2 mmol), Pd2(dba)3 (13.7 mg, 0.015 mmol), and cesium carbonate (65 mg, 0.2 mmol). After the solids were degassed, N,N-dimethylformamide (0.7 mL) and P(t-Bu)3 (6 mg, 0.03 mmol) were added. The mixture is heated at 100 C for 10 min, diluted with methylene chloride, and filtered. The filtrate is evaporated to dryness and purified by column chromatography to yield 30 mg (67%) of the title compound as an orange solid. MS (ESI) m/z 444 (M+H)+1

reactant | (4Z)-4-({[6-(4-Ethylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione | 0.1 mmol, 50.3 mg | C(C)N1CCN(CC1)C1=CC=C(C=N1)N\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O | C21H22IN5O2
reactant | 3-furanboronic acid | 0.2 mmol, 22 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | cesium carbonate | 0.2 mmol, 65 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | P(t-Bu)3 | 0.03 mmol, 6 mg | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.015 mmol, 13.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | N,N-dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-({[6-(4-Ethylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-(3-furyl)isoquinoline-1,3(2H,4H)-dione | 30 mg, 67% | C(C)N1CCN(CC1)C1=CC=C(C=N1)N\C=C\1/C(NC(C2=CC=C(C=C12)C1=COC=C1)=O)=O | C25H25N5O3
